US04913837
A mixture of 10.4 g of 5-(4-pentylphenyl)-2-pyrazinol (obtainable analogously to Japanese Preliminary Published Application 144,770/84), 7.7 g of p-n-propylbenzyl bromide, 8.6 g of potassium carbonate and 50 ml of dimethylformamide is heated at 90° for 10 hours. Customary working up gives 5-(4-n-pentylphenyl)-pyrazin-2-yl p-n-propylbenzyl ether.

reactant | 5-(4-pentylphenyl)-2-pyrazinol | 10.4 g | C(CCCC)C1=CC=C(C=C1)C=1N=CC(=NC1)O | C15H18N2O
reactant | p-n-propylbenzyl bromide | 7.7 g | C(CC)C1=CC=C(CBr)C=C1 | C10H13Br
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-n-pentylphenyl)-pyrazin-2-yl p-n-propylbenzyl ether | C(CC)C1=CC=C(COC2=NC=C(N=C2)C2=CC=C(C=C2)CCCCC)C=C1 | C25H30N2O
